data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4751,"C1CC[NH+:1]([H:2])CC1.CC(=O)[O-].CCC(C)CC=[N+]1CCCCC1.CCOC(=O)CC(C)=[O:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9237,"CC=C[CH2:1][Mg:2][Br].C[C:3](C)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,120,"COC1=CC(C2(CCCC3=CC=CC=C3)CC[N+:1](C)=[CH:2]C2Br)=C(OC)C=C1.N#C[BH2-:3][H:4].[Na+]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8958,"CC[O-:1].CO[C:2]([CH:3](C(=O)CC1=CC=CC=C1)[H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,7481,"CC(C)[N:1]([Li-][O+:2]1C2CC[CH:3]([H:4])[CH:5]21)C(C)C|(1, 4);((4, 3), 5);((5, 2), 2)"
train,pmechdb_split_0,0,4186,"CC(C)[O-].CCCCCC(CCCCC)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,10179,"N[CH+:1][OH:2]|(2, 1)"
train,pmechdb_split_0,0,2303,"CC=[C+:1]C1=CC=CC=C1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,7500,"CCOC(=O)C1=C(COC)[NH2+]C2([O-:1])C=CC(O)=CC12.CCOC(C)=O.C[C:2]([O:3][H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,4885,"CN1C2=CC=C(O)C=C2C2=C1C=CC=C2.COC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3346,"C[S+:1](I)[H:2].[I-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6215,"COC(O)(C1=CC=CC=C1)[NH2:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9261,"CC(C)=O.COC(=O)C12CC(=O)N(CCC3=CC(OC)=C(OC)C=C3)C1=CCC(=[O+:1][H:2])C2.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,560,"CCOC(C)(C)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1421,"C1=CC=C(COC2CC[C:1]3(CC2)[OH+:2]CC[O:3]3)C=C1.C1CCOC1.CC(=O)[O-].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2727,"CC(C)NC(C)C.[H:1][OH:2].[I-].[Li][NH+](C(C)C)C(C)C.[Li][O:3]C(C1=CC=CC=C1)C(C)N(C)C(=O)C(C)CC(C)C(COCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9279,"C[C+]=C[Si:1](C)(C)C.C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,2894,"CCCCCC[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6335,"C=C1CCCCC12CC(CC)O[C:1]([OH2+:2])([OH:3])C2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8524,"C[CH:1]=[NH2+:2].[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8608,"CCC1C[C:1](=[O:2])C2=CC=CC=C21.O.O[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8868,"COC[CH:1]=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8890,"C=CCN1CCC23C=C(O)[CH:1]([OH+:2]C)CC2C1CC1=C3C(O)=C(OC)C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,1320,"C=CC(=O)COC(C)=O.C=CC(C)=O.CC1=C(CCO)SC(C(C2=CC=CC=C2)[O-:1])=[N+]1CC1=CC=CC=C1.CC[N+:2](CC)(CC)[H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4472,"CC[OH+]S(=O)(=O)[CH2-:1].C[N+:2](C)(C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9282,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)([O-])(Cl)[O+:2](C2CCCCC2C)[H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1180,"CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.CCC(C)(OCC(O)CO)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2479,"CCC(C)C(C)(CC)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9809,"CC(C)[N-:1]C(C)C.CC1(Br)CC[CH:2]([H:3])[CH:4]1[Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2685,"C=C(C)[N:1]1CCCC1.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,239,"CC(C)[C:1]1([OH:2])CC[C:3]([O-:4])=[CH:5]1.CCO.O.[OH2+][Na]|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8948,"CCO[C:1]([CH:2](C#N)[H:3])=[O:4].[H:5][Na:6]|((6, 5), 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,2480,"CCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(C3CCCCC3)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2516,"C[Si-:1](C)(C)(OS(=O)(=O)C(F)(F)F)[O+:2]1CCOC12CCC1=C(C=CC=C1)O2.C[Si](C)(C)O[Si](C)(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,6157,"CC=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6660,"CCC[CH:1]=[C:2](O)OC.[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1225,"C1=CC=CC=C1.CC(=O)CCC(C)(NCCOCCO)[OH:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5404,"CC(=O)OI1(OC(C)=O)([O+:1](C(C2=CCCN3C(=O)CCC23)C2C(=O)C=CCC2C)[H:2])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4707,"CC(C)[O][Al-]([O]C(C)C)([O]C1CCC2(O)C(=CCC3C4CCC(=O)C4(C)CCC32)C1)[O:1]C(C)C.C[N+:2]1([H:3])CCC(=O)CC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4663,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C=C(C(=O)OC)C(C)O.COC1=CC(CO)=CC=C1.O=C1C2=CC=CC3=CC=CC(=C32)C(=O)N1CCCO.O=C1CCC(=O)[N:2]1[Br:3].O=CC1=CC=C(CO)O1.O=[N+]([O-])C1=CC=C(CO)C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5882,"O=S(=O)(O)C1=CC2=C(C=C1)C=C[CH+:1][C:2]2(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4416,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1C2(O)CCCC(=O)C2(C)CCC1(NC(CC1=CC=CC=C1)C(=O)O)[OH+:1][H:2].[NH3+]C(CC1=CC=CC=C1)C(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4739,"CC1(C2=CC=CC=C2)CC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3281,"CO[C:1](C)([C:2]#N)[O-:3]|(3, 1);((1, 2), 2)"
